US07053099B1
b) 2-Phenoxy-6-aminobenzyl amine
The product of example 2a above, 2-phenoxy-6-aminobenzonitrile, (1.5 g, 7.14 mmol) was dissolved in dry tetrahydrofuran (50 mL) and stirred under argon in a room temperature water bath. Lithium aluminum hydride (0.53 g, 14.0 mmol) was added in portions over 10 minutes. The reaction mixture was heated to 60° C. for 1 hour. The reaction mixture was cooled to room temperature and anhydrous sodium sulfate was added followed by quenching by the addition of a freshly prepared saturated solution of anhydrous sodium sulfate. The solvent was evaporated and the residue triturated with ethyl acetate, filtered and evaporated. Flash chromatography on silica gel eluted with 0–3% methanol in methylene chloride gave the title compound as a white amorphous solid. Recrystallization from carbon tetrachloride, hexane gave a white crystalline solid. mp 69–71° C.

reactant | 2-phenoxy-6-aminobenzonitrile | 7.14 mmol, 1.5 g | O(C1=CC=CC=C1)C1=C(C#N)C(=CC=C1)N | C13H10N2O
reactant | Lithium aluminum hydride | 14.0 mmol, 0.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-Phenoxy-6-aminobenzyl amine | O(C1=CC=CC=C1)C1=C(CN)C(=CC=C1)N | C13H14N2O
